US04939159
Step 1, 1-(4-fluorophenyl-2-propanone-2-pyridinyl hydrazone
In a vessel fitted with a condenser under nitrogen, 21.8 g (0.2M) of 2-hydrazinopyridine and 30.4 g (0.2M) of (4-fluorophenyl)acetone are heated at 80°-90° for about 30 to 60 mins. Toluene is then added and the mixture refluxed until all water is azeotropically distilled off. The mixture is then evaporated to dryness yielding crude product of this step as a yellow gum. The gum is distilled under reduced pressure (150°-160° at about 50 microns) to obtain the product of this step (as a yellow gum).

reactant | 2-hydrazinopyridine | 0.2M, 21.8 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | (4-fluorophenyl)acetone | 0.2M, 30.4 g | FC1=CC=C(C=C1)CC(C)=O | C9H9FO
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-fluorophenyl-2-propanone-2-pyridinyl hydrazone | N1=C(C=CC=C1)NN=C(CC1=CC=C(C=C1)F)C | C14H14FN3
